2146-12-24 05:18:00 Physician Resident Progress Note
Chief Complaint: back pain
   24 Hour Events:
 INVASIVE VENTILATION - START [**2146-12-23**] 08:55 PM
 ARTERIAL LINE - START [**2146-12-23**] 09:00 PM
 MULTI LUMEN - START [**2146-12-23**] 09:02 PM
   t/f to TSICU post op. Had EBL 2.7L in OR, got 8UPRBC, 6UFFP, 8Uplt,
   cellsaver, 1L LR, 3L NS. brady post op. monitor and follow
   hct/transfuse prn overnight. Hct stable, no issues overnight.
   History obtained from Medical records
   Patient unable to provide history: Sedated, vented
   Allergies:
   Nsaids
   GI bleed;
   Last dose of Antibiotics:
   Cefazolin - [**2146-12-24**] 02:00 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-12-23**] 10:00 PM
   Hydromorphone (Dilaudid) - [**2146-12-24**] 04:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2146-12-24**] 05:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 58 (53 - 61) bpm
   BP: 128/60(82) {128/60(82) - 156/81(110)} mmHg
   RR: 12 (6 - 12) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
    CVP: 8 (1 - 8)mmHg
   Total In:
                                                                 10,636 mL
                                                                    891 mL
   PO:
   TF:
   IVF:
                                                                  5,002 mL
                                                                    801 mL
   Blood products:
                                                                  5,574 mL
   Total out:
                                                                  4,689 mL
                                                                    595 mL
   Urine:
                                                                    150 mL
                                                                    485 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  5,947 mL
                                                                    296 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   Compliance: 65 cmH2O/mL
   SpO2: 100%
   ABG: 7.45/45/171/30/7
   Ve: 6.9 L/min
   PaO2 / FiO2: 428
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed
   Labs / Radiology
   94 K/uL
   10.4 g/dL
   132 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.3 mEq/L
   20 mg/dL
   108 mEq/L
   141 mEq/L
   28.6 %
   4.9 K/uL
        [image002.jpg]
                            [**2146-12-23**]  10:06 PM
                            [**2146-12-23**]  10:10 PM
                            [**2146-12-24**]  01:48 AM
                            [**2146-12-24**]  02:08 AM
   WBC
   5.1
   4.9
   Hct
   28.5
   28.6
   Plt
   94
   94
   Cr
   0.7
   0.7
   TCO2
   36
   32
   Glucose
   130
   132
   Other labs: PT / PTT / INR:14.6/32.0/1.3, Ca++:7.7 mg/dL, Mg++:2.3
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 IMPAIRED PHYSICAL MOBILITY
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ASSESSMENT AND PLAN:  64 yo M, s/p ant and post decompression and
   fusion of t10-L5.
   NEUROLOGIC:  intubated/sedated. no wake up overnight, bedrest until
   Sunday for dural defect repair.  will con't parkinson Rx.
   sedation: propofol
   Pain:  dilauded prn
   CARDIOVASCULAR:  received large resusc intraop, now brady but BP
   stable, will follow and transfuse prn.
   PULMONARY:  intubated/sedated, cmv overnight.
   GI / ABD:  no issues
   NUTRITION:  NPO,. Begin TF
   RENAL:  Cr 0.7, stable
   HEMATOLOGY: post op hct 28.7, stable q4 overnight.
   ENDOCRINE:  ssi
   ID:  cefazolin x 2 doses postop, afebrile wbc 4.4
   LINES/TUBES/DRAINS:  ETT, OGT, aline, RIJ, foley, chest tube, lumbar
   bulb drain
   WOUNDS:  ant/post, thoracotomy
   IMAGING:  none pending
   FLUIDS:  d5 1/2NS+20K @ 75  stop after TF started
   CONSULTS:  none
   BILLING DIAGNOSIS:
   ICU CARE:
   GLYCEMIC CONTROL:  ssi
   PROPHYLAXIS:  boots
   DVT -  boots, ? if can start sch
   STRESS ULCER -  ppi
   VAP BUNDLE - HOB flat for post op
   COMMUNICATIONS:
   ICU Consent:  need to obtain
   CODE STATUS:  presumed full
   DISPOSITION:  TSICU
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2146-12-23**] 09:00 PM
   Multi Lumen - [**2146-12-23**] 09:02 PM
   16 Gauge - [**2146-12-23**] 09:05 PM
   20 Gauge - [**2146-12-23**] 09:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: hob flat [**3-12**] spine [**Doctor First Name **]   consider rotating bed
   Communication:  Comments: need to obtain icu consent from family
   Code status: Full code
   Disposition:ICU